US07632857B2
[4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2-fluoro-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 2,3-Dihydro-1,4-benzodioxin-6-yl boronic acid. MS (M+H) 411.2

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 2,3-Dihydro-1,4-benzodioxin-6-yl boronic acid | O1CCOC2=C1C=CC(=C2)B(O)O | C8H9BO4
product | [4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2-fluoro-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | O1CCOC2=C1C=CC(=C2)C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CN2CCCC2)F | C24H27FN2O3
